US09107916B2
E. 2-[5-[(4-ethyl-2-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-ethyl-2-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.23 (3H, t, J=7.6 Hz), 2.66 (2H, q, J=7.6 Hz), 5.26 (2H, s), 5.81 (1H, d, J=2.0 Hz), 6.95 (1H, d, J=11.2 Hz), 7.00 (1H, d, J=7.6 Hz), 7.35 (1H, d, J=8.0 Hz), 7.38 (1H, dd, J=1.6 Hz, 5.2 Hz), 7.57 (1H, d, J=1.6 Hz), 8.00-8.01 (1H, m), 8.69 (1H, d, J=0.8 Hz, 5.2 Hz). [M+H] Calc'd for C18H15FN4O, 323. Found, 323.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-ethyl-2-fluorophenyl)methanol | C(C)C1=CC(=C(C=C1)CO)F | C9H11FO
product | 2-[5-[(4-ethyl-2-fluorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | C(C)C1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)F | C18H15FN4O
